US04919706
A solution of 31.3 g of potassium t-butoxide in 280 ml of tetrahydrofuran was cooled to -50° and a solution of 27.7 g of methyl isocyanoacetate in 230 ml of tetrahydrofuran was addd dropwise at -50° to -40°. The resulting brown suspension was stirred 15 minutes then cooled to -78°, then a solution of 16.8 ml of carbon disulfide in 225 ml tetrahydrofuran was added dropwise while maintaining the temperature below -50°. The pinkish-brown thick suspension was allowed to warm to -15° to 10° over 15 to 20 minutes. To the reaction mixture, a solution of 33.3 ml of benzyl bromide in 140 ml tetrahydrofuran was added dropwise at -15° to -5°. The reaction mixture was stirred at ambient temperature for 30 minutes, refluxed for 20 minutes, then cooled and the bulk of the solvent evaporated. To the oily residue, 1000 ml ice-water was added. After several minutes, the product solidified. The tan solid was collected, washed twice with water, followed by hexane and dried giving 68.8 g of methyl 5-(phenylmethylthio)-4-thiazolecarboxylate, m.p. 90°-92°.

reactant | potassium t-butoxide | 31.3 g | CC(C)([O-])C.[K+]
reactant | methyl isocyanoacetate | 27.7 g | [N+](#[C-])CC(=O)OC | C4H5NO2
reactant | carbon disulfide | 16.8 ml | C(=S)=S | CS2
reactant | benzyl bromide | 33.3 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 280 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 230 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 140 ml | O1CCCC1 | C4H8O
product | methyl 5-(phenylmethylthio)-4-thiazolecarboxylate | 68.8 g | C1(=CC=CC=C1)CSC1=C(N=CS1)C(=O)OC | C12H11NO2S2
